US07521447B2
Step A: (S)-2-(tert-butoxycarbonyl)-4-hydroxybutanoic acid:
To a solution of L-homoserine (49.9 g, 419 mmol) in 1N NaOH (460 mL) and EtOH (400 mL) was added a solution of Boc anhydride (100.6 g, 461 mmol) in THF (400 mL) over 15 minutes. The reaction mixture was stirred at room temperature for 16 hours. The mixture was then washed with ether (3×500 mL), acidified with 1N HCl to pH 2 and extracted with ethyl acetate (6×250 mL). The combined organic extracts were washed with brine (2×250 mL), dried over MgSO4, filtered through Celite, and concentrated under reduced pressure to afford 72.6 g of white solid (79% yield).

reactant | L-homoserine | 419 mmol, 49.9 g | N[C@@H](CCO)C(=O)O | C4H9NO3
reactant | Boc anhydride | 461 mmol, 100.6 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | NaOH | 1N, 460 mL | [OH-].[Na+]
solvent | EtOH | 400 mL | CCO | C2H6O
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | (S)-2-(tert-butoxycarbonyl)-4-hydroxybutanoic acid | 72.6 g, 79% yield | C(C)(C)(C)OC(=O)[C@H](C(=O)O)CCO | C9H16O5
